US06800637B2
4-Benzofuran-3-yl-butylamine
This compound was prepared by the same method as for intermediate 30, using 4-benzofuran-3-yl-butyronitrile (1.05 g, 5.67 mmol), 420 mg of 5% rhodium on alumina, 100 mL of ammonium hydroxide, and 150 mL of ethanol, to afford 770 mg (72%) of the title compound after chromatography: 1H NMR (CDCl3, 400 MHz) δ 7.52 (d, J=8.2 Hz, 1 H), 7.43 (d, J=8.1 Hz, 1 H), 7.38 (s, 1 H), 7.18-7.27 (m, 2 H), 2.72 (t, J=7.0 Hz, 2 H), 2.67 (t, J=7.3 Hz, 2 H), 1.73 (quint, J=7.9 Hz, 2 H).

reactant | 4-benzofuran-3-yl-butyronitrile | 5.67 mmol, 1.05 g | O1C=C(C=C2C1=CC=C2)C(C#N)CC | C12H11NO
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
catalyst | rhodium on alumina | 420 mg | [Rh] | Rh
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 4-Benzofuran-3-yl-butylamine | 770 mg, 72% | O1C=C(C=C2C1=CC=C2)NCCCC | C12H15NO
